US07893099B2
Step 4: (1S,2R,4S) and (1R,2S,4R)-4-(tert-Butyl-diphenyl-silanyloxy)-2-methoxy-cyclopentanecarbonitrile
A mixture of (1S,2R,4S) and (1R,2S,4R)-4-(tert-butyl-diphenyl-silanyloxy)-2-hydroxy-cyclopentanecarbonitrile (2 g, 5.47 mmol), methyliodide (15 ml; 246 mmol) and silver(I) oxide (2.54 g, 10.94 mmol) was stirred at room temperature overnight. The excess of methyliodide was removed under reduced pressure and the remaining residue was suspended in DCM and filtered through a pad of celite. The filtrate was evaporated and the remaining yellow gum was purified by silica gel column chromatography (heptane/EtOAc 90:10-80:20) to obtain 1.62 g (4 mmol, 78%) of the title compound as colorless gum. MS (EI): 380.2 (M+H)+.

reactant | (1R,2S,4R)-4-(tert-butyl-diphenyl-silanyloxy)-2-hydroxy-cyclopentanecarbonitrile | 5.47 mmol, 2 g | C(C)(C)(C)[Si](O[C@H]1C[C@@H]([C@H](C1)C#N)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H27NO2Si
reactant | methyliodide | 246 mmol, 15 ml | CI | CH3I
catalyst | silver(I) oxide | 10.94 mmol, 2.54 g | [Ag-]=O
product | (1R,2S,4R)-4-(tert-Butyl-diphenyl-silanyloxy)-2-methoxy-cyclopentanecarbonitrile | 4 mmol, 1.62 g, 78% | C(C)(C)(C)[Si](O[C@H]1C[C@@H]([C@H](C1)C#N)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H29NO2Si
